Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Morphine / Oxycodone/Acetaminophen
 
Attending: ___.
 
Chief Complaint:
___ F s/p fall vs. assault with facial trauma
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt reported waking up at 4:30am morning of admission with R 
facial/jaw pain and noticed facial swelling. She does not recall 
anything from the night before and denies any knowledge of 
assault or significant etoh intake. CT at ___ 
found R intraparenchymal hemorrhage, R inferior orbital rim 
fracture, nasal bone fracture. She was transferred from to the 
___ ED and admitted to the trauma service. ETOH on arrival to 
___ was 103.  
 
Past Medical History:
MRSA bacteremia
depression
anxiety
perforated diverticulitis
L hip surgeries x 4 inc. total hip replacement
R hip surgery - femur fracture, total hip replacement
___ procedure
takedown colostomy
appendectomy
cholecystectomy

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
On admission

Gen: WD/WN, comfortable, NAD
VS: 91.9 115 127/88 18 99%RA
GCS: 15
HEENT: R periorbital ecchymosis and ___ swelling, 1cmfluid 
swelling over R maxilla. 0.75 cm, 'z' shaped laceration over R 
maxillary prominence. EOMI. Pupils: ___ bilaterally  
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal 
affect.  
Orientation: Oriented to person, place, and date.
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.
Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.
Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift
Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.
Toes downgoing bilaterally
Coordination: normal on finger-nose-finger, rapid alternating
movements, heel to shin
 
Pertinent Results:
___ 06:00PM   NEUTS-75.0* ___ MONOS-4.1 EOS-0.9 
BASOS-0.2
___ 06:00PM   WBC-9.5 RBC-3.41* HGB-11.4* HCT-34.4* 
MCV-101* MCH-33.4* MCHC-33.1 RDW-15.3
___ 06:00PM   PLT COUNT-300
___ 06:00PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:00PM   CALCIUM-8.7 PHOSPHATE-3.3 MAGNESIUM-1.9
___ 06:00PM   estGFR-Using this
___ 06:00PM   GLUCOSE-71 UREA N-12 CREAT-0.8 SODIUM-141 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-17* ANION GAP-25*
___ 06:18PM   K+-4.1
___ 07:30PM URINE  ___ BACTERIA-OCC YEAST-NONE 
EPI-0
___ 07:30PM URINE  BLOOD-SM NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 07:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 07:30PM URINE  HOURS-RANDOM

___ CT C-SPINE W/O CONTRAST Preliminary reports are not 
available for viewing.
___ CT HEAD W/O CONTRAST Preliminary reports are not 
available for viewing. 
___ CHEST (SINGLE VIEW) There is minimal atelectasis present 
at the lung bases. The cardiomediastinal silhouette is 
unremarkable. There are no rib fractures. There is no 
pneumothorax. 
___ PELVIS (AP ONLY) Unread
___ ABDOMEN (SUPINE ONLY)
FINDINGS: There is no evidence of gross acute fracture or 
dislocation. Please note, single supine view of the abdomen is 
not optimized for bony evaluation. Extensive degenerative 
changes of the lumbar spine are identified. Mild levoscoliosis 
is noted. SI joints are unremarkable. Patient is status post 
bilateral hip replacements. The hardware is intact. Contrast is 
identified within the bladder, presumably due to prior 
radiological study. Bowel gas pattern is unremarkable. 

 
Brief Hospital Course:
Pt was admitted with diagnoses from CT at OSH showing multiple 
punctate hyperdensities in R frontal and R temporal regions c/w 
hemorrhagic contusion, R inferior orbital wall fracuture, nasal 
bone fx, hematoma face. R facial laceration was repaired in the 
ED by plastics.  Facial fractures were judged to be 
nonoperative.  Neurosurgery initiated ___nd 
recommended follow-up with repeat CT.  Ophthalmology consult 
recommended follow-up eye exam for decreased visual acuity; no 
entrapment was noted.  Pt was admitted to ___ with NGT, PIVs, 
and Foley and placed on CIWA scale. Social work consult was 
obtained regarding ETOH use and safety in the home; patient was 
deemed to feel safe and able to return home.
 
Discharge Medications:
1. Phenytoin Sodium Extended 100 mg Capsule Sig: One (1) Capsule 
PO three times a day for 10 days.
Disp:*30 Capsule(s)* Refills:*0*
2. Tylenol Extra Strength 500 mg Tablet Sig: Two (2) Tablet PO 
every six (6) hours as needed for headache.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p ?Assault vs. Fall
Right intraparenchymal hemorrhage 
Right orbital inferior rim fracture 
Nasal bone fracture 
Right facial laceration
 
Discharge Condition:
Hemodynamically stable tolerating a regular diet, pain 
controlled

 
Discharge Instructions:
AVOID blowing your nose because of the nasal fractures.

Continue with the Dilantin (anti-seizure medication) for a total 
of 10 days.

Apply ice to right side of face ___ because of the 
swelling.

Return to the Emergency room for increased headaches, fevers, 
changes in your vision, increased dizziness, shortness of 
breath, chest pain, abdominal pain, nausea, vomiting, diarrhea 
and/or any other symtpoms that are concerning to you.
 
Followup Instructions:
___